US06150373
A mixture of 200 mg (0.52 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 140 mg (0.8 mmol) of 4-[2-(dimethylamino)ethoxy]aniline was heated at 160° C. for 2 hours and then cooled. The residue was chromatographed on silica gel using firstly dichloromethane/methanol/acetic acid/water (240:24:3:2) and then dichloromethane/methanol/acetic acid/water (90:18:3:2) for the elution. Product-containing fractions were combined and evaporated. The residue was evaporated with toluene and then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to give 35 mg (23%) of 3-(2,6-dichlorophenyl)-7-[4-[2-(dimethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 173-174° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.52 mmol, 200 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | 4-[2-(dimethylamino)ethoxy]aniline | 0.8 mmol, 140 mg | CN(CCOC1=CC=C(N)C=C1)C | C10H16N2O
product | 3-(2,6-dichlorophenyl)-7-[4-[2-(dimethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 35 mg, 23% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(C)C)C)=O | C23H24Cl2N6O2
